US04889857
To a solution of 19.1 g of ethyl 4-[2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholino]-2,3,5-trifluorobenzoate in 100 ml of methanol is added dropwise a solution of 7.56 g of sodium hydroxide in 100 ml of water under ice-cooling. After stirring under ice-cooling for 20 minutes, the methanol is distilled off under reduced pressure. The solution is washed with ethyl acetate, made acid with 6 N hydrochloric acid and then extracted with ethyl acetate. After drying over anhydrous magnesium sulfate, the ethyl acetate is distilled off under reduced pressure. To the residue is added isopropyl ether. The obtained crystals are filtered with suction and dried to give 12.2 g of 4-[2-(N-ethoxycarbonyl-N-methylaminomethyl)-morpholino]-2,3,5-trifluorobenzoic acid in 68% yield, melting at 170°-172° C.

reactant | ethyl 4-[2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholino]-2,3,5-trifluorobenzoate | 19.1 g | C(C)OC(=O)N(C)CC1OCCN(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C18H23F3N2O5
reactant | sodium hydroxide | 7.56 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 4-[2-(N-ethoxycarbonyl-N-methylaminomethyl)-morpholino]-2,3,5-trifluorobenzoic acid | 12.2 g, 68% yield | C(C)OC(=O)N(C)CC1OCCN(C1)C1=C(C(=C(C(=O)O)C=C1F)F)F | C16H19F3N2O5
